* C:\Users\newtonis\InformesTC\TP2\EJ_1_simulaciones\EJ_1_simulaciones.asc
R1 N001 INPUT 1.2k
R2 N001 OUTPUT 12k
R3 N001 0 1.2k
R4 OUTPUT 0 5k
V2 N002 0 15
V1 0 N003 15
V3 INPUT 0 PULSE(-5 5 0 1 0 0 1)
XU1 0 N001 N002 N003 OUTPUT LM324/NS
.tran 2
.lib C:\Users\newtonis\Downloads\mate5\LM324.txt
.backanno
.end
